US05221685
(2) Synthesis of 2-benzoylamino-4,4-bis(trifluoromethyl)-5-(tetrafluoroethylidene)-2-thiazoline (Compound 2)
In toluene (10 ml) were dissolved 2-imino-4,4-bis(trifluoromethyl)-5-(tetrafluoroethylidene)-1,3-thiazolidine (0.7 g) and triethylamine (1 ml), and benzoyl chloride (0.3 g) was gradually added thereto and the mixture was stirred at room temperature for 3 hours.

reactant | 2-imino-4,4-bis(trifluoromethyl)-5-(tetrafluoroethylidene)-1,3-thiazolidine | 0.7 g | N=C1SC(C(N1)(C(F)(F)F)C(F)(F)F)=C(C(F)(F)F)F | C7H2F10N2S
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.3 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-benzoylamino-4,4-bis(trifluoromethyl)-5-(tetrafluoroethylidene)-2-thiazoline | C(C1=CC=CC=C1)(=O)NC=1SC(C(N1)(C(F)(F)F)C(F)(F)F)=C(C(F)(F)F)F | C14H6F10N2OS
